US08497360B2
NaHCO3 (3.32 g, 39.48 mmol) was added to a solution of 1-bromomethyl-4-iodo-2-nitrobenzene (2.25 g, 6.58 mmol) in anhydrous DMSO (150 mL). The mixture was stirred at 86° C. for 19 hours under a nitrogen atmosphere, then cooled down to room temperature, diluted with water (300 mL), and extracted with methylene chloride four times (250 mL). The combined organic phase was dried over Na2SO4, concentrated in vacuo, and purified by silica gel chromatography to yield 4-iodo-2-nitrobenzaldehyde (1.11 g, 61%). 1HNMR (400 MHz, CDCl3): δ 10.38 (d, 1 H, J=1.6 Hz, CHO), 8.45 (d, 1 H, J=1.5 Hz, Ph-H), 8.15 (dd, 1 H, J=1.5 and 8.0 Hz, Ph-H), 7.67 (d, 1 H, J=8.1 Hz, Ph-H); 13C NMR (100 MHz, CDCl3): δ 187.28 (CH), 143.18 (CH), 133.29 (CH), 130.67 (CH), 130.28 (C), 109.60 (C), 99.78 (C).

reactant | NaHCO3 | 39.48 mmol, 3.32 g | C(=O)(O)[O-].[Na+]
reactant | 1-bromomethyl-4-iodo-2-nitrobenzene | 6.58 mmol, 2.25 g | BrCC1=C(C=C(C=C1)I)[N+](=O)[O-] | C7H5BrINO2
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | water | 300 mL | O | H2O
product | 4-iodo-2-nitrobenzaldehyde | 1.11 g, 61% | IC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4INO3
